US07652051B2
3.71 g (19.73 mmol) of 4-(3-amino-[1,2,4]triazin-5-yl)-phenol can be dissolved in 80 mL of anhydrous DMF under argon atmosphere. 2.44 g (21.71 mmol, 1.1 equivalent) of solid potassium tert-butoxide can be added to the solution. The resulting mixture can be heated to about 100° C. and stirred at that temperature for 15 min. Then a solution of 3.7 g (21.71 mmol, 1.1 equivalent) of 4-chloro-pyridine-2-carboxylic acid methylamide in 10 mL of anhydrous DMF can be added, followed by 3.28 g (23.68 mmol, 1.2 eq.) of anhydrous K2CO3. The reaction mixture can be heated at 140° C. for 30 hrs. The progress of the reaction can be monitored by LC/MS. Then it can be allowed to cool down to ambient temperature. The resulting mixture can be poured into 500 mL of water and 100 mL of ethyl acetate. The aqueous layer can be extracted with a number of solvents, such as ethyl acetate, methylene chloride or ether. The combined extracts can be washed 3 times with 100 mL of water, then with brine and dried over anhydrous sodium sulfate. Solvent can be removed in vacuum to give crude 4-[4-(3-amino-[1,2,4]triazin-5-yl)-phenoxy]-N-methylpyridine-2-carboxamide. The product can be than purified using silica gel column chromatography. Those having ordinary skill in the art can determine which solvent system can be used as an eluents in the chromatographic purification.

reactant | 4-(3-amino-[1,2,4]triazin-5-yl)-phenol | 19.73 mmol, 3.71 g | NC=1N=NC=C(N1)C1=CC=C(C=C1)O | C9H8N4O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | 4-chloro-pyridine-2-carboxylic acid methylamide | 21.71 mmol, 3.7 g, 1.1 equivalent | CNC(=O)C1=NC=CC(=C1)Cl | C7H7ClN2O
reactant | K2CO3 | 23.68 mmol, 3.28 g, 1.2 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 500 mL | O | H2O
product | 4-[4-(3-amino-[1,2,4]triazin-5-yl)-phenoxy]-N-methylpyridine-2-carboxamide | NC=1N=NC=C(N1)C1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1 | C16H14N6O2
